US05686455
(b) 4-Methoxy-N-methyl-N-(4-picolyl)benzamide
To a solution of N-methyl-N-(4-picolyl)amine (0.40 g, 3.3 mmol) and triethylamine (1.5 mL, 10.8 mmol) in CH2Cl2 (15 mL) was added 4-methoxybenzoyl chloride (1.2 g, 7.3 mmol). The resulting mixture was stirred at rt for 15 min, and then partitioned between 2.5N NaOH and Et2O. The organic extract was washed with saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo, and the residue was purified by flash chromatography, eluting with a solvent gradient of 2-4% MeOH/CHCl3. The material that was isolated was triturated with Et2O to provide the title compound as a light yellow solid (0.18 g, 21%): 1H NMR (CDCl3): δ8.60 (d, 2H); 7.43 (br d, 2H); 7.20 (br s, 2H); 6.90 (br d, 2H); 4.66 (br s, 2H); 3.80 (s, 3H); 3.00 (s, 3H).

reactant | N-methyl-N-(4-picolyl)amine | 3.3 mmol, 0.40 g | CNCC1=CC=NC=C1 | C7H10N2
reactant | triethylamine | 10.8 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzoyl chloride | 7.3 mmol, 1.2 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-Methoxy-N-methyl-N-(4-picolyl)benzamide | 0.18 g, 21% | COC1=CC=C(C(=O)N(CC2=CC=NC=C2)C)C=C1 | C15H16N2O2
